US05204333
A mixture of 2-cyclobutyl-2-mercaptomethylpropane-1,3-dithiol (4 g, 20 mmol), trimethylorthoformate (2.5 g, 24 mmol) and Amberlyst 15 ion-exchange resin (1 g) was heated to reflux with stirring under a nitrogen atmosphere for 1 hour in dry benzene (100 ml). The mixture was filtered and evaporated to leave a residue which was washed with diethyl ether to give 4-cyclobutyl-2,6,7-trithiabicyclo[2.2.2]octane as a white solid (1.8 g, 43%) mp 112°-114° C., [M+1]+ 219.

reactant | 2-cyclobutyl-2-mercaptomethylpropane-1,3-dithiol | 20 mmol, 4 g | C1(CCC1)C(CS)(CS)CS | C8H16S3
reactant | trimethylorthoformate | 24 mmol, 2.5 g | COC(OC)OC | C4H10O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-cyclobutyl-2,6,7-trithiabicyclo[2.2.2]octane | 1.8 g, 43% | C1(CCC1)C12CSC(SC1)SC2 | C9H14S3
